US07727998B2
To a solution of imidazole (170 mg) and triethylamine (350 ml) in DMF (1 ml), a solution of methyl 2-bromo-2-(4-chlorophenyl)-acetate (657 mg) in DMF (3 ml) was added. After stirring for an overnight, water was added to the reaction liquid, followed by extraction with ethyl acetate, washing with saturated brine and drying over anhydrous sodium sulfate. The reaction liquid was condensed under reduced pressure and the resulting residue was purified on silica gel column chromatography (methanol/chloroform=1/10) to provide methyl 2-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-acetate (400 mg) as a yellow oily substance.

reactant | imidazole | 170 mg | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 350 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 2-bromo-2-(4-chlorophenyl)-acetate | 657 mg | BrC(C(=O)OC)C1=CC=C(C=C1)Cl | C9H8BrClO2
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | methyl 2-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-acetate | 400 mg | ClC1=CC=C(C=C1)C(C(=O)OC)N1C=NC=C1 | C12H11ClN2O2
